US04754050
9-[4-(Benzyloxy)benzylamino]-1,2,3,4-tetrahydroacridin-1-ol
To a cooled suspension of 4.75 g of 3,4-dihydro-9-[4-(benzyloxy)benzylamino]acridin-1(2H)-one in 75 ml of tetrahydrofuran was added 6 ml of 1M solution of lithium aluminum hydride in tetrahydofuran. This was stirred for 1 hour.

reactant | 3,4-dihydro-9-[4-(benzyloxy)benzylamino]acridin-1(2H)-one | 4.75 g | C(C1=CC=CC=C1)OC1=CC=C(CNC=2C3=CC=CC=C3N=C3CCCC(C23)=O)C=C1 | C27H24N2O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 9-[4-(Benzyloxy)benzylamino]-1,2,3,4-tetrahydroacridin-1-ol | C(C1=CC=CC=C1)OC1=CC=C(CNC=2C3=CC=CC=C3N=C3CCCC(C23)O)C=C1 | C27H26N2O2
